US06723726B1
N6,N6-Dimethyl-N4-(1-pyridin-3-ylmethyl-1H-indazol-5-yl)-pyrido[3,4-d]pyrimidine-4,6-diamine Hydrochloride
Prepared according to Procedure A from 1-(3-Pyridylmethyl)-1H-indazol-5-ylamine and 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.50(1H,s), 9.90(1H,s), 8.65(1H,d), 8.60(2H,m), 8.25(1H,s), 8.14(1H,s), 7.91(1H,d), 7.75(2H,m), 7.70(1H,s), 7.50(1H,m), 5.80(2H,s), 3.20(6H,s); m/z (M+1+) 397.

reactant | 1-(3-Pyridylmethyl)-1H-indazol-5-ylamine | N1=CC(=CC=C1)CN1N=CC2=CC(=CC=C12)N | C13H12N4
reactant | 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
product | N6,N6-Dimethyl-N4-(1-pyridin-3-ylmethyl-1H-indazol-5-yl)-pyrido[3,4-d]pyrimidine-4,6-diamine Hydrochloride | Cl.CN(C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)CC=2C=NC=CC2)C=N1)C | InChI=1S/C22H20N8.ClH/c1-29(2)21-9-18-19(12-24-21)25-14-26-22(18)28-17-5-6-20-16(8-17)11-27-30(20)13-15-4-3-7-23-10-15;/h3-12,14H,13H2,1-2H3,(H,25,26,28);1H
